US07288654B2
To N-propyl-2-piperidone (1.92 g) was added a 4 N aqueous sodium hydroxide solution (6.8 ml), and the mixture was refluxed at 115° C. for 5 hours. Thereto was added concentrated hydrochloric acid (2.27 ml) at 0° C. to neutralize the resulting mixture. Then, sodium carbonate (2.88 g), water (11.5 ml) and DMSO (18.2 ml) were added thereto. After the mixture was heated to 90° C., a solution of 5-bromo-2-chloronicotinaldehyde (1.5 g) in DMSO (23 ml) was added dropwise thereto and the mixture was stirred as it is for 2 hours. After cooling to 0° C., water was added thereto. 6 N Hydrochloric acid (9 ml) was then added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the residue as it is was dissolved in DMF (50 ml), and then potassium carbonate (2.31 g) and iodomethane (1.04 ml) were added thereto. The mixture was stirred at room temperature under a nitrogen atmosphere for 2 hours. Water was added thereto and the mixture was then extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1→hexane:ethyl acetate=4:1) to give methyl 5-[(5-bromo-3-formylpyridin-2-yl)(propyl)amino]pentanoate (909 mg) as a yellow oily material.

reactant | N-propyl-2-piperidone | 1.92 g | C(CC)N1C(CCCC1)=O | C8H15NO
reactant | sodium hydroxide | 4 N, 6.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2.27 ml | Cl | ClH
reactant | sodium carbonate | 2.88 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-bromo-2-chloronicotinaldehyde | 1.5 g | BrC=1C=NC(=C(C=O)C1)Cl | C6H3BrClNO
reactant | Hydrochloric acid | 6 N, 9 ml | Cl | ClH
solvent | DMSO | 23 ml | CS(=O)C | C2H6OS
solvent | DMSO | 18.2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 11.5 ml | O | H2O
product | methyl 5-[(5-bromo-3-formylpyridin-2-yl)(propyl)amino]pentanoate | 909 mg | BrC=1C=C(C(=NC1)N(CCCCC(=O)OC)CCC)C=O | C15H21BrN2O3
